US04751244
Parenteral Solution of Sodium (E)-1-[2,3-Dichloro-4-(2-nitro-1-butenyl)phenoxy]cyclobutane-1-carboxylate
250 mg of (E)-1-[2,3-dichloro-4-(2-nitro-1-butenyl)phenoxy]cyclobutane-1-carboxylic acid is dissolved in 31 ml of 0.1 N sodium bicarbonate and sufficient isotonic buffer to make a final volume of 100 ml. The water from all sources was pyrogen-free. The solution is sterilized by filtration.

reactant | (E)-1-[2,3-dichloro-4-(2-nitro-1-butenyl)phenoxy]cyclobutane-1-carboxylic acid | 250 mg | ClC1=C(OC2(CCC2)C(=O)O)C=CC(=C1Cl)\C=C(/CC)\[N+](=O)[O-] | C15H15Cl2NO5
reactant | water | O | H2O
reactant | sodium bicarbonate | 0.1 N, 31 ml | C([O-])(O)=O.[Na+]
product | Sodium (E)-1-[2,3-Dichloro-4-(2-nitro-1-butenyl)phenoxy]cyclobutane-1-carboxylate | ClC1=C(OC2(CCC2)C(=O)[O-])C=CC(=C1Cl)\C=C(/CC)\[N+](=O)[O-].[Na+] | InChI=1S/C15H15Cl2NO5.Na/c1-2-10(18(21)22)8-9-4-5-11(13(17)12(9)16)23-15(14(19)20)6-3-7-15;/h4-5,8H,2-3,6-7H2,1H3,(H,19,20);/q;+1/p-1/b10-8+;
